US04430346
Into 4.5 ml of dimethylformamide, was dissolved 645 mg of (S)-7-guanidino-3-hydroxyheptanamide hydrochloride followed by the addition of 0.9 ml of pyridine and 3.6 ml of isobutyric anhydride. The mixture was heated at 50° C. for 24 hours. The reaction mixture was admixed with 20 ml of ice water, the separated oil layer was removed therefrom, and the aqueous layer was treated, similarly to Example 2, with CM-Sephadex® C-25 and Sephadex® LH-20 to obtain 729 mg of (S)-7-guanidino-3-isobutyryloxyheptanamide hydrochloride in oily form.

reactant | dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
reactant | (S)-7-guanidino-3-hydroxyheptanamide hydrochloride | 645 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)O
reactant | isobutyric anhydride | 3.6 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | pyridine | 0.9 ml | N1=CC=CC=C1 | C5H5N
product | (S)-7-guanidino-3-isobutyryloxyheptanamide hydrochloride | 729 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)OC(C(C)C)=O | InChI=1S/C12H24N4O3.ClH/c1-8(2)11(18)19-9(7-10(13)17)5-3-4-6-16-12(14)15;/h8-9H,3-7H2,1-2H3,(H2,13,17)(H4,14,15,16);1H/t9-;/m0./s1
